### PR TITLE
feat: add `BitVec.[(getMsbD, msb)_extractLsb', (getLsbD, getMsbD, msb)_extractLsb] `, add `and_eq_decide, or_eq_decide, decide_eq_true_iff` to `bool_to_prop `

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds theorems `BitVec.(getMsbD, msb)_(extractLsb', extractLsb), getMsbD_extractLsb'_eq_getLsbD`.

### CODE REVIEW

**Comment by luisacicolini** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -781,6 +781,32 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
     (extractLsb' start len x).getLsbD i = (i < len && x.getLsbD (start+i)) := by
   simp [getLsbD, Nat.lt_succ]
 
+@[simp] theorem getMsbD_extractLsb'_eq_getLsbD {start len : Nat} {x : BitVec w} {i : Nat} :
+    (extractLsb' start len x).getMsbD i =
+    (decide (i < len) && x.getLsbD (start + (len - 1 - i))) := by
+  rcases len with _|len'
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:787]:
```suggestion
  rcases len with rfl | len'
```
I prefer to match with `rfl` to make it clear that we are substituting the value `len = 0`.

Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:787]: Since this is a purely auxiliary lemma to `getMsbD_extractLsb'`, it maybe worth refactoring the whole thing as a `where` clause:

```lean
@[simp] theorem getMsbD_extractLsb' {start len : Nat} {x : BitVec w} {i : Nat} :
    (extractLsb' start len x).getMsbD i = by <proof>
  where
     theorem getMsbD_extractLsb'_eq_getLsbD {start len : Nat} {x : BitVec w} {i : Nat} :
    (extractLsb' start len x).getMsbD i =
    (decide (i < len) && x.getLsbD (start + (len - 1 - i))) := by <proof>
```

Also, drop the `@[simp]` on `getMsbD_extractLsb'_eq_getLsbD`, since it's auxiliary!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -789,6 +815,16 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
     getLsbD (extractLsb hi lo x) i = (i ≤ (hi-lo) && getLsbD x (lo+i)) := by
   simp [getLsbD, Nat.lt_succ]
 
+@[simp] theorem getMsbD_extract {hi lo : Nat} {x : BitVec w} {i : Nat} :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:818]:
```suggestion
@[simp] theorem getMsbD_extractLsb {hi lo : Nat} {x : BitVec w} {i : Nat} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -789,6 +815,16 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+    (extractLsb hi lo x).getMsbD i =
+    (decide (i < hi - lo + 1) && (decide (lo + (hi - lo - i) < w) && x.getMsbD (w - 1 - (lo + (hi - lo - i))))) := by
+  rw [BitVec.extractLsb, BitVec.getMsbD_extractLsb', Nat.add_sub_cancel]
+
+@[simp] theorem msb_extract {hi lo : Nat} {x : BitVec n} :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:823]:
```suggestion
@[simp] theorem msb_extractLsb {hi lo : Nat} {x : BitVec n} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -789,6 +815,16 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+    (extractLsb hi lo x).msb = (decide (0 < hi - lo + 1) &&
+    (decide (lo + (hi - lo) < n) && x.getMsbD (n - 1 - (lo + (hi - lo))))) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:825]:
```lean
    (extractLsb hi lo x).msb = (decide (0 < hi - lo + 1) &&
    (decide (lo + (hi - lo) < n) && x.getMsbD (n - 1 - (lo + (hi - lo))))) := by
```

I feel the conditions can be simplified. We should be able to write `decide (0 < hi - lo + 1)` as `decide (lo <= hi)`. Similarly, given this, is it not the case that `decide (lo + (hi - lo) < n)` is equivalent to `decide (hi < n)`, and the final case is `x.getMsbD (n - 1 -  hi)`? Note that I'm not 100% sure about the above computations, but it does seem to me that `lo + (hi - lo)` is refactorable by using another `decide (...)` condition if necessary

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -3352,7 +3388,7 @@ theorem shiftLeft_eq_mul_twoPow (x : BitVec w) (n : Nat) :
   simp [getLsbD_shiftLeft, Fin.is_lt, decide_true, Bool.true_and, mul_twoPow_eq_shiftLeft]
 
 /-- 2^i * 2^j = 2^(i + j) with bitvectors as well -/
-theorem twoPow_mul_twoPow_eq {w : Nat} (i j : Nat) : twoPow w i * twoPow w j = twoPow w (i + j) := by 
+theorem twoPow_mul_twoPow_eq {w : Nat} (i j : Nat) : twoPow w i * twoPow w j = twoPow w (i + j) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:3391]: Stray change, not necessary!

**Review by bollu — CHANGES_REQUESTED** [review]
Thanks for the API :) I request a couple of minor syntactic changes, and one simplification of a theorem statement.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -3352,7 +3379,7 @@ theorem shiftLeft_eq_mul_twoPow (x : BitVec w) (n : Nat) :
...
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3382]:
```suggestion
theorem twoPow_mul_twoPow_eq {w : Nat} (i j : Nat) : twoPow w i * twoPow w j = twoPow w (i + j) := by 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -781,6 +781,23 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
     (extractLsb' start len x).getLsbD i = (i < len && x.getLsbD (start+i)) := by
   simp [getLsbD, Nat.lt_succ]
 
+@[simp] theorem getMsbD_extractLsb' {start len : Nat} {x : BitVec w} {i : Nat} :
+    (extractLsb' start len x).getMsbD i =
+    (decide (i < len) &&
+    (decide (start + (len - 1 - i) < w) && x.getMsbD (w - 1 - (start + (len - 1 - i))))) := by
+  rcases len with rfl | len
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:788]:
```suggestion
  rcases len with _ | len
```

No need to use `rfl` here (`rfl` is used to call subst on hypothesis of type `len = 42`, here we are just doing straight cases on a `Nat`)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -781,6 +781,23 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+  · simp
+  · have h : (len - i < len + 1) := by omega
+    rw [getMsbD_eq_getLsbD, getLsbD_extractLsb', getLsbD_eq_getMsbD]
+    simp [h]
+
+@[simp] theorem msb_extractLsb' {start len : Nat} {x : BitVec w} :
+    (extractLsb' start len x).msb =
+    (decide (0 < len) && x.getLsbD (start + len - 1)) := by
+  rcases len with rfl | len
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:797]:
```suggestion
  cases len
```

There's nothing wrong with using rcases here, per se, but we don't even refer to `len` after so regular `cases` does the job just fine

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -781,6 +781,23 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
     (extractLsb' start len x).getLsbD i = (i < len && x.getLsbD (start+i)) := by
   simp [getLsbD, Nat.lt_succ]
 
+@[simp] theorem getMsbD_extractLsb' {start len : Nat} {x : BitVec w} {i : Nat} :
+    (extractLsb' start len x).getMsbD i =
+    (decide (i < len) &&
+    (decide (start + (len - 1 - i) < w) && x.getMsbD (w - 1 - (start + (len - 1 - i))))) := by
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:787]:
```suggestion
    (extractLsb' start len x).getMsbD i 
    = (decide (i < len) 
       && (decide (start + (len - 1 - i) < w) 
       && x.getMsbD (w - 1 - (start + (len - 1 - i))))) := by
```

I think we currently use both `=` at the end of a line and `=` at the start of the next line styles, but I *personally* find the latter much easier to read; feel free to disagree.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 10]
```diff
@@ -781,6 +781,23 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+  rcases len with rfl | len
+  · simp
+  · have h : (len - i < len + 1) := by omega
+    rw [getMsbD_eq_getLsbD, getLsbD_extractLsb', getLsbD_eq_getMsbD]
+    simp [h]
+
+@[simp] theorem msb_extractLsb' {start len : Nat} {x : BitVec w} :
+    (extractLsb' start len x).msb =
+    (decide (0 < len) && x.getLsbD (start + len - 1)) := by
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:796]:
```suggestion
    (extractLsb' start len x).msb 
    = (decide (0 < len) && x.getLsbD (start + len - 1)) := by
```
See previous comment on `=` style

File: src/Init/Data/BitVec/Lemmas.lean [hunk 11]
```diff
@@ -789,6 +806,16 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
     getLsbD (extractLsb hi lo x) i = (i ≤ (hi-lo) && getLsbD x (lo+i)) := by
   simp [getLsbD, Nat.lt_succ]
 
+@[simp] theorem getMsbD_extractLsb {hi lo : Nat} {x : BitVec w} {i : Nat} :
+    (extractLsb hi lo x).getMsbD i =
+    (decide (i < hi - lo + 1) && (decide (lo + (hi - lo - i) < w) && x.getMsbD (w - 1 - (lo + (hi - lo - i))))) := by
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:811]:
```suggestion
    (extractLsb hi lo x).getMsbD i 
    = (decide (i < hi - lo + 1) 
      && (decide (lo + (hi - lo - i) < w) 
      && x.getMsbD (w - 1 - (lo + (hi - lo - i))))) := by
```
Again, see previous comment on `=` style. You might want to check the exact number of spaces, as I don't trust the GitHub edit box to handle the monospacing properly

File: src/Init/Data/BitVec/Lemmas.lean [hunk 12]
```diff
@@ -789,6 +806,16 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+  rw [BitVec.extractLsb, BitVec.getMsbD_extractLsb', Nat.add_sub_cancel]
+
+@[simp] theorem msb_extractLsb {hi lo : Nat} {x : BitVec w} :
+    (extractLsb hi lo x).msb =
+    (decide (lo + (hi - lo) < w) && x.getMsbD (w - 1 - (lo + (hi - lo)))) := by
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:816]:
```suggestion
    (extractLsb hi lo x).msb 
    = (decide (lo + (hi - lo) < w) && x.getMsbD (w - 1 - (lo + (hi - lo)))) := by
```

**Review by alexkeizer — COMMENTED** [review]
Some style comments

File: src/Init/Data/BitVec/Lemmas.lean [hunk 13]
```diff
@@ -3352,7 +3381,7 @@ theorem shiftLeft_eq_mul_twoPow (x : BitVec w) (n : Nat) :
   simp [getLsbD_shiftLeft, Fin.is_lt, decide_true, Bool.true_and, mul_twoPow_eq_shiftLeft]
 
 /-- 2^i * 2^j = 2^(i + j) with bitvectors as well -/
-theorem twoPow_mul_twoPow_eq {w : Nat} (i j : Nat) : twoPow w i * twoPow w j = twoPow w (i + j) := by 
+theorem twoPow_mul_twoPow_eq {w : Nat} (i j : Nat) : twoPow w i * twoPow w j = twoPow w (i + j) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:3384]:
```suggestion
theorem twoPow_mul_twoPow_eq {w : Nat} (i j : Nat) : twoPow w i * twoPow w j = twoPow w (i + j) := by 
```

**Comment by luisacicolini** [comment]
awaiting-review

File: src/Init/Data/BitVec/Lemmas.lean (hunk 4 above)
Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean]: @luisacicolini, it's helpful if you can click "resolve conversation" for resolved conversations, so reviewers don't have to evaluate the status of the conversation themselves.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 14]
```diff
@@ -789,6 +806,18 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+    (extractLsb hi lo x).getMsbD i
+    = (decide (i < hi - lo + 1)
+      && (decide (lo + (hi - lo - i) < w)
+      && x.getMsbD (w - 1 - (lo + (hi - lo - i))))) := by
+  rw [BitVec.extractLsb, BitVec.getMsbD_extractLsb', Nat.add_sub_cancel]
+
+@[simp] theorem msb_extractLsb {hi lo : Nat} {x : BitVec w} :
+    (extractLsb hi lo x).msb
+    = (decide (lo + (hi - lo) < w) && x.getMsbD (w - 1 - (lo + (hi - lo)))) := by
+  simp [BitVec.msb, BitVec.getMsbD_extractLsb, show hi - lo ≤ hi - lo by omega]
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:819]: Surely this last `show` has no effect?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 15]
```diff
@@ -789,6 +806,18 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
     getLsbD (extractLsb hi lo x) i = (i ≤ (hi-lo) && getLsbD x (lo+i)) := by
   simp [getLsbD, Nat.lt_succ]
 
+@[simp] theorem getMsbD_extractLsb {hi lo : Nat} {x : BitVec w} {i : Nat} :
+    (extractLsb hi lo x).getMsbD i
+    = (decide (i < hi - lo + 1)
+      && (decide (lo + (hi - lo - i) < w)
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:812]: Why the strange parenthesisation here? You should just cancel the `lo`s.

Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:812]: Similarly in the last `&&`. You can make sure of the condition from the first `decide`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 16]
```diff
@@ -789,6 +806,18 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
     getLsbD (extractLsb hi lo x) i = (i ≤ (hi-lo) && getLsbD x (lo+i)) := by
   simp [getLsbD, Nat.lt_succ]
 
+@[simp] theorem getMsbD_extractLsb {hi lo : Nat} {x : BitVec w} {i : Nat} :
+    (extractLsb hi lo x).getMsbD i
+    = (decide (i < hi - lo + 1)
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:811]: `\le hi - lo`?

**Comment by luisacicolini** [comment]
I've now changed the statements to remove the parenthesization in `getMsbD_extractLsb`. As far as I could see, that yielded an additional condition and caused some changes in `msb_extractLsb`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 17]
```diff
@@ -789,6 +806,24 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
     getLsbD (extractLsb hi lo x) i = (i ≤ (hi-lo) && getLsbD x (lo+i)) := by
   simp [getLsbD, Nat.lt_succ]
 
+
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:809]:
```suggestion
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 15 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: Now updated - changing the statement too with the new condition

**Comment by luisacicolini** [comment]
awaiting-review

File: src/Init/Data/BitVec/Lemmas.lean [hunk 18]
```diff
@@ -781,6 +781,23 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
     (extractLsb' start len x).getLsbD i = (i < len && x.getLsbD (start+i)) := by
   simp [getLsbD, Nat.lt_succ]
 
+@[simp] theorem getMsbD_extractLsb' {start len : Nat} {x : BitVec w} {i : Nat} :
+    (extractLsb' start len x).getMsbD i
+    = (decide (i < len) &&
+    (decide (start + (len - 1 - i) < w) && x.getMsbD (w - 1 - (start + (len - 1 - i))))) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:787]: I wish I could understand what the condition was doing; While I believe the condition, maybe a comment explaining how this `getMsbD` was arrived at (ascii art?) would be super helpful.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 19]
```diff
@@ -789,6 +806,23 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
     getLsbD (extractLsb hi lo x) i = (i ≤ (hi-lo) && getLsbD x (lo+i)) := by
   simp [getLsbD, Nat.lt_succ]
 
+@[simp] theorem getMsbD_extractLsb {hi lo : Nat} {x : BitVec w} {i : Nat} :
+    (extractLsb hi lo x).getMsbD i
+    = if lo ≤ hi then decide (i ≤ hi - lo) && (decide (hi - i < w) && x.getMsbD (w - 1 - (hi - i)))
+    else decide (i = 0) && (decide (lo < w) && x.getMsbD (w - 1 - lo)) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:812]: I have the same concern about the legibility of the RHS here. I wonder if there isn't a simpler RHS?

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:812]: I am missing what makes the rhs simpler I guess. The previous version was: 
```lean4
= (decide (i ≤  hi - lo)
      && (decide (lo + (hi - lo - i) < w)
      && x.getMsbD (w - 1 - (lo + (hi - lo - i))))```
would this be simpler? Consider that simplifying the parenthesization means introducing the hypoyhesis on `lo \le hi`.
The way I see it, the current RHS is simpler, as it highlights the main characteristic of the theorem, being that we can indeed extract (at least) one bit even if `hi < lo`. But I am very confused here.

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:812]: Happy to write the comment anyways - once we reach consensus on a sensible RHS

File: src/Init/Data/BitVec/Lemmas.lean (hunk 18 above)
Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:787]: I agree this is the right condition. However it is not formatted correctly. This is better:
```
    (extractLsb' start len x).getMsbD i = 
      (decide (i < len) &&
      (decide (start + (len - 1 - i) < w) && 
      x.getMsbD (w - 1 - (start + (len - 1 - i))))) := by
```

**Comment by kim-em** [comment]
Why is
```
@[simp] theorem getLsbD_extractLsb (hi lo : Nat) (x : BitVec n) (i : Nat) :
    getLsbD (extractLsb hi lo x) i = (decide (i < hi - lo + 1) && x.getLsbD (lo + i)) := by
  rw [extractLsb]
  rw [getLsbD_extractLsb']
```
missing? It seems this is clearly logically prior to the lemmas you're adding here.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 19 above)
Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:812]: The proof of this theorem *must* start with
```
  rw [getMsbD_eq_getLsbD]
  rw [getLsbD_extractLsb]
  rw [getLsbD_eq_getMsbD]
```
and then simplify the inequalities.

After those rewrites, we get
```
(decide (i < hi - lo + 1) &&
    (decide (hi - lo + 1 - 1 - i < hi - lo + 1) &&
      (decide (lo + (hi - lo + 1 - 1 - i) < w) && x.getMsbD (w - 1 - (lo + (hi - lo + 1 - 1 - i))))))
```
The second inequality is automatic and can be dropped.
In the third inequality, + 1 - 1 should be dropped.
The first inequality implies that the `-i` in the 3rd inequality is not truncating.
Moreover, if `hi - lo` is truncating, then `i` is 0.
Thus, given the 1st inequality, `lo + (hi - lo + 1 - 1 - i) = (max hi lo) - i` and so the 3rd inequality becomes `(max hi lo) - i < w`.
Finally, one needs to simplify `w - 1 - (lo + (hi - lo + 1 - 1 - i))` using the first two inequalities. But given the above this is just `w - 1 - (max (hi lo) - i)`.

Can you make the proof follow that argument?

(And apologies, I haven't checked this argument beyond what is written here, but even if it is not quite right hopefully you can see the method to derive the appropriate RHS.)

Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:812]: Here's the correct proof style:

```
@[boolToPropSimps] theorem and_eq_decide (a b : Bool) : (a && b) = decide (a = true ∧ b = true) := by sorry
attribute [boolToPropSimps] decide_eq_true_iff

@[simp] theorem getMsbD_extractLsb {hi lo : Nat} {x : BitVec w} {i : Nat} :
    (extractLsb hi lo x).getMsbD i = 
      (decide (i < hi - lo + 1) &&
      (decide ((max hi lo) - i < w) && 
      x.getMsbD (w - 1 - ((max hi lo) - i)))) := by
  rw [getMsbD_eq_getLsbD]
  rw [getLsbD_extractLsb]
  rw [getLsbD_eq_getMsbD]
  simp only [boolToPropSimps]
  constructor
  · rintro ⟨h₁, h₂, h₃, h₄⟩ 
    have p : w - 1 - (lo + (hi - lo + 1 - 1 - i)) = w - 1 - (max hi lo - i) := by omega
    rw [p] at h₄
    simp [h₄]
    omega
  · rintro ⟨h₁, h₂, h₃⟩ 
    have p : w - 1 - (lo + (hi - lo + 1 - 1 - i)) = w - 1 - (max hi lo - i) := by omega
    rw [← p] at h₃ 
    rw [h₃]
    simp
    omega
```
Perhaps you can all take a look at this, and
* work out what we need to add to `boolToPropSimps`
* digest this proof style, and see where else it can be applied?

Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:812]: (This proof style will eventually be fully automated by `grind`, but not quite yet. We need the full linear arithmetic module.)

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:812]: That's extremely useful @kim-em, thanks a lot! The strategy is clear now

File: src/Init/Data/BitVec/Lemmas.lean [hunk 20]
```diff
@@ -789,6 +815,32 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+  simp only [and_congr_right_iff, Nat.add_one_sub_one, boolToPropSimps, show hi - lo - i < hi - lo + 1 by omega]
+  intro
+  by_cases hmax : lo ≤ hi
+  · simp [Nat.max_eq_left hmax, show lo + (hi - lo - i) = hi - i by omega]
+  · simp [Nat.max_eq_right (show hi ≤ lo by omega), show lo + (hi - lo - i) = lo - i by omega]
+
+@[simp] theorem msb_extractLsb {hi lo : Nat} {x : BitVec w} :
+    (extractLsb hi lo x).msb
+    = (decide ((max hi lo) < w) &&
+      x.getMsbD (w - 1 - ((max hi lo)))) := by
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:841]:
```suggestion
    (extractLsb hi lo x).msb =
    (decide ((max hi lo) < w) 
     && x.getMsbD (w - 1 - ((max hi lo)))) := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 21]
```diff
@@ -789,6 +815,32 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
     getLsbD (extractLsb hi lo x) i = (i ≤ (hi-lo) && getLsbD x (lo+i)) := by
   simp [getLsbD, Nat.lt_succ]
 
+@[boolToPropSimps] theorem and_eq_decide (a b : Bool) : (a && b) = decide (a = true ∧ b = true) := by simp [Bool.decide_and]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:818]: Does this belong in this file?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 22]
```diff
@@ -789,6 +815,32 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+
+attribute [boolToPropSimps] decide_eq_true_iff
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:820]: Why is this in this file?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 23]
```diff
@@ -781,6 +781,32 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+      (decide (start + (len - 1 - i) < w) &&
+      x.getMsbD (w - 1 - (start + (len - 1 - i))))) := by
+  rcases len with rfl | len
+  · simp
+  · rw [getMsbD_eq_getLsbD, getLsbD_extractLsb', getLsbD_eq_getMsbD]
+    simp [show (len - i < len + 1) by omega]
+
+@[simp] theorem msb_extractLsb' {start len : Nat} {x : BitVec w} :
+    (extractLsb' start len x).msb
+    = (decide (0 < len) && x.getLsbD (start + len - 1)) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:805]: Sometimes `=` is at the beginning of the newline, sometimes at the end. Can you check what is standard in lean/mathlib? The same for `&&`.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 22 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:820]: Then we should not yet mark this for review, but try to get this resolved first.

File: src/Init/Data/Bool.lean [hunk 24]
```diff
@@ -566,10 +566,15 @@ theorem apply_cond (f : α → β) {b : Bool} {a a' : α} :
 
 protected theorem decide_coe (b : Bool) [Decidable (b = true)] : decide (b = true) = b := decide_eq_true
 
+
```
Comment (luisacicolini) [inline src/Init/Data/Bool.lean:569]:
```suggestion
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 25]
```diff
@@ -3352,7 +3401,7 @@ theorem shiftLeft_eq_mul_twoPow (x : BitVec w) (n : Nat) :
   simp [getLsbD_shiftLeft, Fin.is_lt, decide_true, Bool.true_and, mul_twoPow_eq_shiftLeft]
 
 /-- 2^i * 2^j = 2^(i + j) with bitvectors as well -/
-theorem twoPow_mul_twoPow_eq {w : Nat} (i j : Nat) : twoPow w i * twoPow w j = twoPow w (i + j) := by 
+theorem twoPow_mul_twoPow_eq {w : Nat} (i j : Nat) : twoPow w i * twoPow w j = twoPow w (i + j) := by
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3404]:
```suggestion
theorem twoPow_mul_twoPow_eq {w : Nat} (i j : Nat) : twoPow w i * twoPow w j = twoPow w (i + j) := by 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 26]
```diff
@@ -789,6 +816,28 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+    getLsbD (extractLsb hi lo x) i = (decide (i < hi - lo + 1) && x.getLsbD (lo + i)) := by
+  rw [extractLsb, getLsbD_extractLsb']
+
+@[simp] theorem getMsbD_extractLsb {hi lo : Nat} {x : BitVec w} {i : Nat} :
+    (extractLsb hi lo x).getMsbD i =
+      (decide (i < hi - lo + 1) &&
+      (decide ((max hi lo) - i < w) &&
+      x.getMsbD (w - 1 - ((max hi lo) - i)))) := by
+  rw [getMsbD_eq_getLsbD, getLsbD_extractLsb, getLsbD_eq_getMsbD]
+  simp only [decide_eq_true_iff, and_congr_right_iff, Nat.add_one_sub_one, boolToPropSimps, Bool.and_eq_decide_true, show hi - lo - i < hi - lo + 1 by omega]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:829]: This line is too long. Can you break it?

**Comment by kim-em** [comment]
@luisacicolini, sorry, this still isn't right. Please see my commit at https://github.com/leanprover/lean4/pull/6792/commits/97de12b95fe4659756ace0fe86d145132d5c8670 showing how to set up boolToPropSimps.

**Comment by kim-em** [comment]
Also, unless you have some explanation, please use the proof I wrote for you in https://github.com/leanprover/lean4/pull/6792#discussion_r1942245210.

This proof is better than what you have, in particular because this approach will be easier to replace with `grind` when it is ready.

But also:
* putting `simp only [boolToPropSimps]` in amongst a bunch of other simp lemmas obscures the design of the proof
* using `and_congr_right_iff` adds extra steps, i.e. the `intro` that follows
* the two terminal branches of your proof have "creative" steps, i.e. deciding to use `Nat.max_eq_...`, whereas mine just uses a single `have` to identify the integer arithmetic expressions appearing inside the two `getMsbD`s.
* you have a case split that can just be handled with `omega`.

**Comment by kim-em** [comment]
Finally, you'll now need to merge master as I've renamed `boolToPropSimps` to `bool_to_prop` on `master`.

**Comment by luisacicolini** [comment]
awaiting-review

**Comment by luisacicolini** [comment]
awaiting-author

File: src/Init/Data/BitVec/Lemmas.lean [hunk 27]
```diff
@@ -852,6 +852,82 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
     (extractLsb' start len x).getLsbD i = (i < len && x.getLsbD (start+i)) := by
   simp [getLsbD, Nat.lt_succ]
 
+/-!
+Get the most significant bit after `extractLsb'`. With `extractLsb'`, we extract
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:856]:
```suggestion
/-
Get the most significant bit after `extractLsb'`. With `extractLsb'`, we extract
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 28]
```diff
@@ -852,6 +852,77 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
     (extractLsb' start len x).getLsbD i = (i < len && x.getLsbD (start+i)) := by
   simp [getLsbD, Nat.lt_succ]
 
+/-
+Get the most significant bit after `extractLsb'`. With `extractLsb'`, we extract
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:856]:
```suggestion
/--
Get the most significant bit after `extractLsb'`. With `extractLsb'`, we extract
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 29]
```diff
@@ -852,6 +852,77 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+w := 10,
+start := 5,                     |    start + len    | = 11
+len := 6 .                                  | start | = 5
+                                |   len   |
+let x                       = _ _ 9 8 7 6 5 4 3 2 1 0
+let x' = x.extractLsb' 5 6  =   _ 9 8 7 6 5 4
+                                |  w - (start + len) + i =
+                                   10 - (    5 +   6) + 0 = -1 -- In Nat, this becomes 0
+                                   start + len - 0 ≤ w
+                                   6 + 5 - 0 = 11 ≤ 10 ❌
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:897]: I'm not sure how this calculation relates to `start + len - i ≤ w`. I'm not sure what value of `i` we are currently thinking about (I can infer from what's written that we're thinking of the case where `i = 0`, and also why we are computing `w - (start + len) + i`. I'd have expected that we compute `start + len - i`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 30]
```diff
@@ -852,6 +852,77 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+                                        x'.getMsbD (i := 1) =
+                                        x.getMsbD (i := w - (start + len - i) =
+                                                        10 - (4 + 3 - 1) = 4)
+# Condition 1: `i < len`
+
+The index `i` must be within the range of `len`.
+
+# Condition 2: `start + len - i ≤ w`
+
+If `start + len` is larger than `w`, some lower locations `i` in `x'` are
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:882]:
```suggestion
If `start + len` is larger than `w`, the high bits `i` in `x'` are
```

I find "lower" to be ambiguous, since this depends on whether one is thinking in terms of `msb` or `lsb`. I don't have *great* suggestions here, but I at least prefer `rightward`, or perhaps `high bits`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 31]
```diff
@@ -860,6 +931,34 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
 
+@[simp] theorem getLsbD_extractLsb {hi lo : Nat} {x : BitVec n} {i : Nat} :
+    getLsbD (extractLsb hi lo x) i = (decide (i < hi - lo + 1) && x.getLsbD (lo + i)) := by
+  rw [extractLsb, getLsbD_extractLsb']
+
+@[simp] theorem getMsbD_extractLsb {hi lo : Nat} {x : BitVec w} {i : Nat} :
+    (extractLsb hi lo x).getMsbD i =
+      (decide (i < hi - lo + 1) &&
+      (decide (max hi lo - i < w) &&
+      x.getMsbD (w - 1 - (max hi lo - i)))) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:942]:
```suggestion
@[simp] theorem getMsbD_extractLsb {hi lo : Nat} {x : BitVec w} {i : Nat} :
    (extractLsb hi lo x).getMsbD i =
      (decide (i < hi - lo + 1) &&
      (decide (max hi lo - i < w) &&
      x.getMsbD (w - 1 - (max hi lo - i)))) := by
```

I want to come back to this and thik a bit more about whether the RHS can be rephrased to avoid *two* conditions on the index. Maybe we can't, but I'd like to convince myself of the fact that we can't :)

**Review by bollu — CHANGES_REQUESTED** [review]
I left feedback on the docstrings, which I found confusing. Overall, the proofs look automatable, which is nice! I'd like us to clarify the documentation a bit more.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 31 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:942]: Right. The getMsbD also implies some bounds. E.g., `w - 1 - (max hi lo - i) < w`, but the issue is that the expression `w - 1 - (max hi lo - i)` saturates at zero. The `max hi lo - i < w` avoids this saturation. I would be curious if this is somewhere else already implied.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 29 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: I guess there were some inverted indeces in the previous example, that is now fixed and both examples should be consistent.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 32]
```diff
@@ -852,6 +852,77 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+significant bit. Assuming certain conditions, `x.(extractLsbD' {w} start len).getMsbD i`
+is equal to `x.getMsbD (w - (start + len - i))`.
+
+Example (w = 9, start := 3, len := 4):
+
+                                |---| = w - (start+len) = 3
+                                      |start + len|     = 7
+                                            |start|     = 4
+                                      |len|             = 3
+let x                       =   9 8 7 6 5 4 3 2 1 0
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: I guess there were some inverted indeces in the previous example, that is now fixed and both examples should be consistent.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 29 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: this is hopefully clearer now, too!

File: src/Init/Data/BitVec/Lemmas.lean (hunk 31 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:945]: my understanding is that having less than two conditions is not possible because we want to check 
1. out-of-bound condition wrt. extracted subvector, i.e., `i` must be within the bounds of the extracted sub-bitvec (whose length is `hi - lo + 1`)
2. out-of-bound condition wrt. original subvector, i.e., since `extractLsb` can extend the original vector, in case `w <= hi`, i.e., we need to know whether the `i` we're looking for belongs in these zero-extended bits or is within the original bv. An additional layer is that in this case we can have `lo >= hi`, and this yields a bitvector with length one. 
afaiu, trying to put these together always eventually yields to (at least) one extra condition.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 33]
```diff
@@ -852,6 +852,80 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+
+Example (w = 10, start := 7, len := 5):
+
+                                    |= w - (start + len)    = 0
+                                |      start + len    |     = 12
+                                        |start|             = 7
+                                |  len  |                   = 5
+let x                       =       9 8 7 6 5 4 3 2 1 0
+let x' = x.extractLsb' 3 4  =   _ _ 9 8 7
+                                |   |
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:896]: The comments above do not see well aligned. 😢

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:896]:
```lean4
-w := 10,
-start := 5,                     |    start + len    | = 11
-len := 6 .                                  | start | = 5
-                                |   len   |
-let x                       = _ _ 9 8 7 6 5 4 3 2 1 0
-let x' = x.extractLsb' 5 6  =   _ 9 8 7 6 5 4
+
+                                    |= w - (start + len)    = 0
+                                |      start + len    |     = 12
+                                        |start|             = 7
+                                |  len  |                   = 5
+let x                       =       9 8 7 6 5 4 3 2 1 0
+let x' = x.extractLsb' 3 4  =   _ _ 9 8 7
```

`|start|` was aligned on top of the `0` before and now it is above the `4`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 34]
```diff
@@ -852,6 +852,80 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+                                |---| = w - (start + len) = 3
+                                      |start + len|       = 7
+                                            |start|       = 3
+                                      | len |             = 4
+let x                       =   9 8 7 6 5 4 3 2 1 0
+let x' = x.extractLsb' 3 4  =         6 5 4 3
+                                      | |
+                                      | x'.getMsbD 1 = x.getMsbD (i := w - (start + len - i) = 10 - (3 + 4 - 1) = 4) = x.getLsbD 5
+                                      |
+                                      x'.getMsbD 0 = x.getMsbD (i := w - (start + len - i) = 10 - (3 + 4 - 0) = 3) = x.getLsbD 6
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:873]: This is super crisp, thanks for the detailed ASCII docs :)

File: src/Init/Data/BitVec/Lemmas.lean (hunk 31 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:945]: Right, I believe this. In some sense, `getLsb` allows us to not have to consider indexing with values like `-1`. But when we switch the direction to `getMsb`, we are implicitly adding a condition to handle this case of reading zeroes toward the *right*. We get another condition, as explained, to handle the out of bounds with respect to the parent bitvector, where we read zeroes from the *left*.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 35]
```diff
@@ -860,6 +934,34 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
     getLsbD (extractLsb hi lo x) i = (i ≤ (hi-lo) && getLsbD x (lo+i)) := by
   simp [getLsbD, Nat.lt_succ]
 
+@[simp] theorem getLsbD_extractLsb {hi lo : Nat} {x : BitVec n} {i : Nat} :
+    getLsbD (extractLsb hi lo x) i = (decide (i < hi - lo + 1) && x.getLsbD (lo + i)) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:938]:
```suggestion
    (extractLsb hi lo x).getLsbD i = (decide (i < hi - lo + 1) && x.getLsbD (lo + i)) := by
```

**Review by bollu — APPROVED** [review]
LGTM, thanks for the painful refactors, and the detailed docstrings. The docstrings really helped with understand why each condition was necessary, and the `bool_to_prop` simp-set is neat!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 36]
```diff
@@ -852,6 +852,80 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+Example (w = 10, start := 3, len := 4):
+
+                                |---| = w - (start + len) = 3
+                                      |start + len|       = 7
+                                            |start|       = 3
+                                      | len |             = 4
+let x                       =   9 8 7 6 5 4 3 2 1 0
+let x' = x.extractLsb' 3 4  =         6 5 4 3
+                                      | |
+                                      | x'.getMsbD 1 = x.getMsbD (i := w - (start + len - i) = 10 - (3 + 4 - 1) = 4) = x.getLsbD 5
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:871]:
```suggestion
                                      | x'.getMsbD 1 =
                                        x.getMsbD (i := w - (start + len - i) = 10 - (3 + 4 - 1) = 4)
```

Should we drop getLsbD, we do not use it at the RHS. Also, maybe let's break the line as the long line wraps on my screen and breaks the figure.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 34 above)
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:873]:
```suggestion
                                      x'.getMsbD 0 =
                                      x.getMsbD (i := w - (start + len - i) = 10 - (3 + 4 - 0) = 3)
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 37]
```diff
@@ -852,6 +852,80 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+# Condition 1: `i < len`
+
+The index `i` must be within the range of `len`.
+
+# Condition 2: `start + len - i ≤ w`
+
+If `start + len` is larger than `w`, the high bits at `i` with `w ≤ i` are filled with 0,
+meaning that `getMsbD[i] = false` for these `i`.
+If `i` is large enough, we will have that `getMsbD[i]` is again within the bounds `x`.
+The precise condition is:
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:884]:
```suggestion
If `i` is large enough, `getMsbD[i]` is again within the bounds `x`.
The precise condition is:
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 38]
```diff
@@ -852,6 +852,80 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+
+Example (w = 10, start := 7, len := 5):
+
+                                    |= w - (start + len)    = 0
+                                |      start + len    |     = 12
+                                        |    start    |     = 7
+                                |  len  |                   = 5
+let x                       =       9 8 7 6 5 4 3 2 1 0
+let x' = x.extractLsb' 3 4  =   _ _ 9 8 7
+                                |   |
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:896]:
```suggestion
let x' = x.extractLsb' 7 5  =   _ _ 9 8 7
                                |   |
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 39]
```diff
@@ -852,6 +852,80 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+                                |   x'.getMsbD (i := 2) = x.getMsbD (i := w - (start + len - i) = 10 - (7 + 5 - 2))
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:897]:
```suggestion
                                |   x'.getMsbD (i := 2) =
                                    x.getMsbD (i := w - (start + len - i) = 10 - (7 + 5 - 2))
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 40]
```diff
@@ -852,6 +852,80 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+                                |                       = x.getMsbD 0
+                                |                       ✅ start + len - i ≤ w
+                                |                          7 + 5 - 2 = 10 ≤ 10
+                                |
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:901]:
```suggestion
                                |   x'.getMsbD (i := 2) =
                                |   x.getMsbD (i := w - (start + len - i) = 10 - (7 + 5 - 2)) =
                                |   x.getMsbD 0
                                |   ✅ start + len - i ≤ w
                                |        7 + 5 - 2 = 10 ≤ 10
                                |
```

Avoid wrapping.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 41]
```diff
@@ -852,6 +852,80 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+                                x'.getMsbD (i := 0) = x.getMsbD (i := w - (start + len - i) = 10 - (7 + 5 - 0))
+                                                    = x.getMsbD (i := w - (start + len - i) = x.getMsbD (i := -2) -- in Nat becomes 0
+                                                    ❌ start + len - i ≤ w
+                                                      7 + 5 - 0 ≤ w
+-/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:906]:
```suggestion
                                x'.getMsbD (i := 0) =
                                x.getMsbD (i := w - (start + len - i) = 10 - (7 + 5 - 0)) =
                                x.getMsbD (i := w - (start + len - i) = x.getMsbD (i := -2) -- in Nat becomes 0
                                ❌ start + len - i ≤ w
                                     7 + 5 - 0 ≤ w
-/
```

Avoid wrapping.

**Review by tobiasgrosser — APPROVED** [review]
@luisacicolini, this looks great to me. I only have some minor style improvements for the comment. Otherwise, this is good to go. Thank you for your hard work here.

@bollu, thank you also for your review.

**Comment by luisacicolini** [comment]
thank you @tobiasgrosser @bollu for your reviews, everything has now been addressed :)

**Comment by luisacicolini** [comment]
awaiting-review

**Comment by tobiasgrosser** [comment]
@kim-em, I did a pass and feel this is ready to go. We left an extensive comment, which we found helpful. Happy to drop it if it is unnecessary, though. The remainder should hopefully be straightforward as it follows your suggested coding pattern.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 42]
```diff
@@ -852,6 +852,84 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
     (extractLsb' start len x).getLsbD i = (i < len && x.getLsbD (start+i)) := by
   simp [getLsbD, Nat.lt_succ]
 
+/--
+Get the most significant bit after `extractLsb'`. With `extractLsb'`, we extract
+a `BitVec` `x'` with length `len` from `BitVec` `x`, starting from the element
+at position `start`. The function `getMsb` extracts a bit counting from the most
+significant bit. Assuming certain conditions, `x.(extractLsbD' {w} start len).getMsbD i`
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:859]: What is the `{w}` here? Is this trying to say that `x : BitVec w`? If so, just say that. Alternatively, if you are trying to specify an implicit argument, just use `@` notation.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 43]
```diff
@@ -852,6 +852,84 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+is equal to `x.getMsbD (w - (start + len - i))`.
+
+Example (w = 10, start := 3, len := 4):
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:862]: Why `=` for `w` but `:=` for others?

**Comment by kim-em** [comment]
Just minor cleanup in the comment, otherwise looks good to me! Thanks for your patience on this one.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 44]
```diff
@@ -852,6 +852,84 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+
+If `start + len` is larger than `w`, the high bits at `i` with `w ≤ i` are filled with 0,
+meaning that `getMsbD[i] = false` for these `i`.
+If `i` is large enough, `getMsbD[i]` is again within the bounds `x`.
+The precise condition is:
+
+  `start + len - i ≤ w`
+
+Example (w = 10, start := 7, len := 5):
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:891]:
```suggestion
Example (w := 10, start := 7, len := 5):

```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 43 above)
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:862]:
```suggestion
Example (w := 10, start := 3, len := 4):
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 42 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: I switched to @ notation.
